US07645753B2
4-Chloro-3-ethoxy-5-nitro-benzoic acid methyl ester
To a solution of 3-ethoxy-4-hydroxy-5-nitro-benzoic acid methyl ester (2.0 g, 8.29 mmol, 1.0 equiv) in anhydrous DMF (100 mL) at −25° C. under Ar was added slowly oxalyl chloride (1.40 mL, 2.11 g, 16.58 mmol, 2.0 equiv) over a period of 30 min. After the addition was completed the reaction mixture was heated to 80° C. for 3 h. The reaction mixture was poured on ice, the yellow precipitate washed with cold dichloromethane (3×20 mL), filtered and dried providing 1.97 g (86%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.53 (t, J=7.0 Hz, 3H), 3.96 (s, 3H), 4.24 (q, J=7.0 Hz, 2H), 7.74 (d, J=1.8 Hz, 1H), 8.00 (d, J=1.8 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 14.47, 52.91, 66.17, 115.93, 117.25, 120.95, 129.82, 149.61, 156.03, 164.56. MS (ISP): 276.9 [M+NH4]+.

reactant | 3-ethoxy-4-hydroxy-5-nitro-benzoic acid methyl ester | 8.29 mmol, 2.0 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)OCC)=O | C10H11NO6
reactant | oxalyl chloride | 16.58 mmol, 1.40 mL, 2.11 g, 2.0 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-3-ethoxy-5-nitro-benzoic acid methyl ester | 1.97 g, 86% | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)OCC)=O | C10H10ClNO5
